Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lightheadedness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is an ___ year old woman with a PMHx of hypertension, and 
moderate-to-severe AS presenting with lightheadedness.  
 She felt nauseous and vomited this afternoon. Also feeling 
faint and wobbly. Chest pains "for a while" in her throat which 
is worse with exertion. Also dyspneic & worse with exertion. 
Mild dry cough from a sore throat occasionally.  
 Of note, patient recently diagnosed with aortic stenosis. She 
was seen by Dr. ___ in pulmonology clinic in ___ 
for hemoptysis. CT chest negative, prompting TTE, which revealed 
moderate-severe AS ___ 0.9). At this appointment, she also 
described a globus sensation ("she describes as a sort of globus 
sensation of feeling like something is stuck in her throat, 
indicating just superior to her sternum."  
 In the ED, initial vitals were: 98.5 74 149/74 18 100% RA.  
 - Exam notable for: ___ AS murmur radiating into carotids 
bilaterally, lungs CTA, no BLE edema  
 - Labs notable for: BUN/Cr ___, WBC 3.1, Hgb 10.6, 
troponin-T <0.01 and pro-BNP 156  
 - Imaging was notable for:  
 -- EKG: NSR @ 76, LAD, NI  
 -- CXR: Negative for acute process.  
 Upon arrival to the floor, patient reports lightheadedness with 
ambulation.  

 
Past Medical History:
 - Hypertension  
 - Hyperlipidemia  
 - Aortic stenosis, moderate-severe (TTE in ___ with ___ 0.9 
cm2, peak velocity 3.1 m/sec, no gradients listed in report)  
 - Chronic diastolic heart failure  
 - History of pneumonia, last ___  
 - Sickle cell trait  
 - Gout  

 
Social History:
___
Family History:
Reviewed, denies family history of lung problems, rheumatologic 
problems  
 
 
Physical Exam:
ADMISSION EXAM:
VITAL SIGNS: 98.5 | 155/89 | 86 | 16 | 99%/RA | 71.5 kg  
 GENERAL: well-appearing, in no distress  
 HEENT: sclerae anicteric, PERRL, moist mucous membranes  
 NECK: no JVD, though JVP visible just above clavicle at 30 
degrees, no masses or thyromegaly  
 CARDIAC: regular, normal S1/S2, harsh crescendo-decrescendo 
murmur radiating to carotids & abdomen  
 LUNGS: clear bilaterally  
 ABDOMEN: soft, non-tender, non-distended, audible murmur 
radiating  
 EXTREMITIES: warm, no edema  
 NEUROLOGIC: face symmetric, palate elevates/tongue protrudes 
midline; converses fluently in ___ & ___, though has 
word-finding difficulties, which she states have been present 
for 3 months; oriented to hospital, but not name, oriented to 
___, not oriented to month or year, unable to name ___, 
intermittently confused  
 SKIN: no rashes  

DISCHARGE EXAM
 Vitals: T= 98.4 ___ BP=149/63 RR=16 O2=100 on RA  
 GENERAL: well-appearing, in no distress  
 HEENT: sclerae anicteric, PERRL, moist mucous membranes  
 NECK: no JVD, though JVP visible just above clavicle at 30 
degrees, no masses or thyromegaly  
 CARDIAC: regular, normal S1/S2, harsh crescendo-decrescendo 
murmur radiating to carotids & abdomen  
 LUNGS: clear bilaterally  
 ABDOMEN: soft, non-tender, non-distended, audible murmur 
radiating  
 EXTREMITIES: warm, no edema  
 NEUROLOGIC: face symmetric, palate elevates/tongue protrudes 
midline; converses fluently in ___ & ___, though has 
word-finding difficulties, which she states have been present 
for 3 months; oriented to hospital, but not name, oriented to 
___, not oriented to month or year, only knows month of 
birth. 
 SKIN: no rashes  

 
Pertinent Results:
ADMISSION LABS
___ 12:00AM   WBC-3.1* RBC-3.26* HGB-10.6* HCT-31.4* MCV-96 
MCH-32.5* MCHC-33.8 RDW-13.0 RDWSD-45.6
___ 12:00AM   NEUTS-45.7 ___ MONOS-11.1 EOS-2.0 
BASOS-0.7 AbsNeut-1.40* AbsLymp-1.24 AbsMono-0.34 AbsEos-0.06 
AbsBaso-0.02
___ 12:00AM   ___ PTT-30.3 ___
___ 12:00AM   PLT COUNT-132*
___ 12:00AM   K+-4.3
___ 12:00AM   ALBUMIN-3.8
___ 12:00AM   cTropnT-<0.01 proBNP-185
___ 12:00AM   cTropnT-<0.01
___ 12:00AM   ALT(SGPT)-15 AST(SGOT)-63* ALK PHOS-100 TOT 
BILI-0.5
___ 12:00AM   GLUCOSE-100 UREA N-16 CREAT-1.1 SODIUM-139 
POTASSIUM-7.0* CHLORIDE-104 TOTAL CO2-25 ANION GAP-17
___ 07:40AM   CALCIUM-8.8 PHOSPHATE-3.3 MAGNESIUM-2.0

IMAGING: 
TEE ___
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Left ventricular systolic function is hyperdynamic (EF = 
75%). Right ventricular chamber size and free wall motion are 
normal. There are focal calcifications in the aortic arch. The 
aortic valve leaflets are severely thickened/deformed. There is 
moderate-to-severe aortic valve stenosis (valve area = 0.9 cm2). 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. The left ventricular inflow pattern 
suggests impaired relaxation. There is no pericardial effusion.  


DISCHARGE LABS
___ 07:45AM BLOOD WBC-2.6* RBC-3.25* Hgb-10.6* Hct-31.0* 
MCV-95 MCH-32.6* MCHC-34.2 RDW-12.7 RDWSD-44.8 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-89 UreaN-10 Creat-0.9 Na-141 
K-4.0 Cl-105 HCO3-25 AnGap-15
___ 07:45AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
This is an ___ year old woman with a PMHx of hypertension, and 
moderate-to-severe AS presenting with lightheadedness. 

 ACTIVE ISSUES: 
 # Lightheadedness and Orthostasis: Symptoms most likely ___ to 
orthostasis and her anti-hypertensive regimen as opposed to her 
aortic stenosis as peak gradient not convincing for clinically 
significant AS. Additionally, exam and history c/f dementia, so 
patient may not be reporting poor PO intake at home/FTT though 
labs reassuring. Her blood pressure regimen was liberalized with 
amlodipine stopped and losartan decreased to 25 mg daily, which 
was well tolerated. She was given a small IVF bolus for her 
orthostasis with improvement

 # Aortic Stenosis: Peak velocity 3.1 m/s with normal EF and 
calculated valve area of 0.9 cm^2. These values are not 
convincing for clinically significant AS, more likely moderate 
in nature as opposed to severe. Can be followed/evaluated as an 
outpatient.

 # Memory impairment: reports 3 or more months of impaired short 
term memory, trouble finding words and expressing self with 
difficulty in ___ clinic noted in doing simple tasks. Pt says 
she is still able to care for self, cook & clean, per patient. 
Family reports memory impairment over since the ___ 
but reportedly still functioning independently at home with 
assistance from her husband. No report of memory impairment in 
Partner's records (PCP is at ___ Bay). On exam, not 
oriented to date or location, has word-finding difficulties, 
unable to draw clock, spell/write, unable to do serial 7s or 
days of week backwards. No precipitating infection or other 
causes found for decompensation. She should be considered for 
outpatient neurocognitive testing. ___ were consulted to 
evaluate her functional status and recommended home safety 
evaluation. She will be discharged with ___ services. 

 CHRONIC ISSUES: 
 # Hypertension: amlodipine discontinued, losartan decreased as 
above
 # Dyslipidemia: continue atorvastatin 
 # Pancytopenia: noted in ___ as well. No prior records in 
our system available. Given age, would suspect MDS. 

 # CODE: presumed Full 
 # CONTACT: daughter ___ ___ 

======================
TRANSITIONAL ISSUES
-MEDICATION CHANGES
--- STOPPED: amlodipine
--- CHANGED: decreased losartan to 25 mg daily
-consider outpatient evaluation of aortic stenosis if within 
goals of care
 - Echo faxed to ___ cardiologist Dr. ___ 
___, phone: ___
 - CD with echocardiogram provided to patient. Patient should 
bring this CD to her cardiologist appointment. 
-consider outpatient neurocognitive testing 
-consider outpatient workup of pancytopenia 
-consider discontinuing ASA 325 for ASA 81, unclear indication 
for full dose

#CODE: Full
#CONTACT: daughter ___ ___ (HCP)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Vitamin D 1000 UNIT PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 25 mg PO DAILY  
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Orthostatic Hypotension

Secondary diagnoses:
Hypertension
Aortic Stenosis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___ 
___. 

Why did I have to stay in the hospital?
 You had to stay in the hospital because of lightheadedness.

What was done for me?
 You were given IV fluids and your blood pressure medicines were 
decreased.

What should I do after I leave the hospital?
 You should take your medications as prescribed.
 Please follow up with your cardiologist. You should take the CD 
with a copy of her echocardiogram (ultrasound of her heart 
images) to her cardiologist appointment 

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___